US07160906B2
Methyl 6-[(3-benzyloxy-5-hydroxybenzoyl)amino]-3-pyridinecarboxylate(2.20 g, 5.81 mM), triphenylphosphine (1.59 g, 6.10 mM), iso-propanol (0.445 ml, 5.81 mM) and THF (50 ml) were combined and diisopropylazodicarboxylate (1.2 ml, 6.10 mM) was added dropwise. The reaction was stirred for 72 hours at ambient temperature. The mixture was concentrated in vacuo and the resulting brown oil was purified by column chromatography on Kieselgel 60, eluting with a gradient of 50–100% methylene chloride in iso-hexane and then 5% EtOAc in methylene chloride to give methyl 6-[(3-benzyloxy-5-isopropoxybenzoyl)amino]-3-pyridinecarboxylate as a colourless oil (1.92 g); H1 NMR δ (d6-CDCl3) 1.36 (6H d) 3.95 (3H s) 4.60 (1H sept) 5.09 (2H s) 6.72 (1H s) 7.02 (1H s) 7.10 (1H s) 7.30–7.50 (4H m) 8.39 (2H ddd) 8.68 (1H s br) 8.92 (1H s). [M+H] 421; [M-H] 419.

reactant | Methyl 6-[(3-benzyloxy-5-hydroxybenzoyl)amino]-3-pyridinecarboxylate | 5.81 mM, 2.20 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC2=CC=C(C=N2)C(=O)OC)C=C(C1)O | C21H18N2O5
reactant | triphenylphosphine | 6.10 mM, 1.59 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iso-propanol | 5.81 mM, 0.445 ml | C(C)(C)O | C3H8O
reactant | diisopropylazodicarboxylate | 6.10 mM, 1.2 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | methyl 6-[(3-benzyloxy-5-isopropoxybenzoyl)amino]-3-pyridinecarboxylate | 1.92 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC2=CC=C(C=N2)C(=O)OC)C=C(C1)OC(C)C | C24H24N2O5
